US06414149B1
Step C: 3-Benzothiazol-2-yl-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine
To a solution of 3-benzothiazol-2-yl-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine-7-carboxylic acid benzyl ester (prepared according to the method of Example 259, Step B, 580 mg, contaminated with benzothiazole-2-carboxylic acid hydrazide) in dichloromethane (10 mL) at 0° C. was added a solution of boron tribromide (1 M in dichloromethane, 4.45 mL, 4.45 mmol). This mixture was warmed to room temperature overnight, quenched by addition of water, and concentrated. The residual aqueous layer was washed with ether (6×), neutralized with saturated aqueous sodium bicarbonate, and extracted with 10% isopropanol/chloroform (3×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (1→10% methanol/chloroform) to give 175 mg (36%, two steps) of the title compound of Example 259, Step C as a white solid. 1H NMR (CDCl3, 300 MHz) δ8.05 (d, 1H), 7.96 (d, 1H), 7.57-7.41 (c, 2H), 4.62 (t, 2H), 4.36 (s, 2H), 3.35 (t, 2H); MS (APCI) 258 (MH+).

reactant | 3-benzothiazol-2-yl-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine-7-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC=2N(CC1)C(=NN2)C=2SC1=C(N2)C=CC=C1 | C20H17N5O2S
reactant | benzothiazole-2-carboxylic acid hydrazide | S1C(=NC2=C1C=CC=C2)C(=O)NN | C8H7N3OS
reactant | boron tribromide | 4.45 mmol, 1 M, 4.45 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-Benzothiazol-2-yl-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine | S1C(=NC2=C1C=CC=C2)C2=NN=C1N2CCNC1 | C12H11N5S
